US04921852
To a solution of (2S,4S)-4-acetylthio-(2-aminothiazol-4-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.26 g) in a mixture of methanol (20 ml) and dichloromethane (10 ml) was added sodium methoxide (28% solution in methanol, 1.2 ml) at -30° to -20° C. under an atmosphere of nitrogen. After stirring at 0° C. for 1 hour, acetic acid (0.36 ml) was added to the mixture. The solution was evaporated under reduced pressure, then the residue was dissolved in ethyl acetate, and washed with water, saturated aqueous sodium bicarbonate and brine successively. The dried organic layer was evaporated to give (2S,4S)-2-(2-aminothiazol-4-yl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.13 g).

reactant | (2S,4S)-4-acetylthio-(2-aminothiazol-4-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.26 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)N | C17H18N4O5S2
reactant | sodium methoxide | 1.2 ml | C[O-].[Na+]
reactant | acetic acid | 0.36 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2S,4S)-2-(2-aminothiazol-4-yl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.13 g | NC=1SC=C(N1)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N4O4S2
